US05665754
To a solution of 3-cyano-4-(3-cyclopentoxy-4-methoxyphenyl)-1-(phenylmethyl)pyrrolidine (300 mg, 0.79 mmol) in 2 mL of CH3CN in a thick-walled glass sealable tube was added methyl chloroformate (300 mg, 3.19 mmol). The tube was sealed and the resulting solution was heated to 80° C. for 12 hr. After cooling to room temperature, the solution was concentrated. Silica gel chromatography of the residue (2:1, hexanes:ethyl acetate) provided trans-3-cyano-4-(3-cyclopentoxy-4-methoxyphenyl)-1-(methoxycarbonyl)pyrrolidine as a white solid (233 mg, 85%), m.p. 101°-104° C. Anal. Calcd for C19H24N2O4 : C, 66.26; H, 7.02; N, 8.13. Found: C, 66.14; H, 7.06; N, 8.10.

reactant | 3-cyano-4-(3-cyclopentoxy-4-methoxyphenyl)-1-(phenylmethyl)pyrrolidine | 0.79 mmol, 300 mg | C(#N)C1CN(CC1C1=CC(=C(C=C1)OC)OC1CCCC1)CC1=CC=CC=C1 | C24H28N2O2
reactant | methyl chloroformate | 3.19 mmol, 300 mg | ClC(=O)OC | C2H3ClO2
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | trans-3-cyano-4-(3-cyclopentoxy-4-methoxyphenyl)-1-(methoxycarbonyl)pyrrolidine | 233 mg, 85% | C(#N)[C@@H]1CN(C[C@H]1C1=CC(=C(C=C1)OC)OC1CCCC1)C(=O)OC | C19H24N2O4
